US08877779B2
1-[1-(1,2,2a,3,4,5-Hexahydroacenaphthylen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol 2-one (1.00 g) was dissolved in DMF (30 ml), 60% sodium hydride (140 mg) was added, and the suspension was stirred for 1 hr. Then, N-(2-bromoethyl)phthalimide (818 mg) was added, and the mixture was stirred at 100° C. for 1 hr. The reaction mixture was cooled to room temperature, and poured into saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over magnesium sulfate, and concentrated. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give 2-{2-{3-[1-(1,2,2a,3,4,5-hexahydroacenaphthylen-1-yl)piperidin-4-yl]-1,3-dihydro-2-oxobenzimidazol-1-yl}ethyl}isoindole-1,3-dione.

reactant | 1-[1-(1,2,2a,3,4,5-Hexahydroacenaphthylen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-benzimidazol 2-one | 1.00 g | C1(CC2CCCC3=CC=CC1=C23)N2CCC(CC2)N2C(NC3=C2C=CC=C3)=O | C24H27N3O
reactant | sodium hydride | 140 mg | [H-].[Na+]
reactant | N-(2-bromoethyl)phthalimide | 818 mg | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2-{2-{3-[1-(1,2,2a,3,4,5-hexahydroacenaphthylen-1-yl)piperidin-4-yl]-1,3-dihydro-2-oxobenzimidazol-1-yl}ethyl}isoindole-1,3-dione | C1(CC2CCCC3=CC=CC1=C23)N2CCC(CC2)N2C(N(C3=C2C=CC=C3)CCN3C(C2=CC=CC=C2C3=O)=O)=O | C34H34N4O3
